US06699910B2
Under nitrogen atmosphere, to a solution of 2-(6-bromo-2,2-dimethyl-hexyloxy)-tetrahydropyran (17.6 g, 60 mmol) and diethyl malonate (4.8 g, 30 mmol) in anhydrous DMSO (145 mL) was added sodium hydride (60% dispersion in mineral oil, 2.88 g, 72 mmol ) under cooling with a water-bath. Tetra-n-butylammonium iodide (2.1 g, 3.6 mmol) was then added. The mixture was stirred for 16 h at room temperature. Water (140 mL) was added carefully to the reaction mixture under cooling with water-bath. The product was extracted with diethyl ether (3×60 mL) and the combined organic layers were washed with water (4×50 mL) and brine (50 mL). The solution was dried over sodium sulfate and concentrated in vacuo to give 2,2-bis-[5,5-dimethyl-6-(tetrahydropyran-2-yloxy)-hexyl]-malonic acid diethyl ester (17.3 g, 82.3%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 4.41 (t, J=3.1 Hz, 2H), 4.01 (q, J=7.0 Hz, 4H), 3.82-3.70 (m, 2H), 3.50-3.30 (m, 4H), 2.87 (d, J=9.1 Hz, 2H), 1.80-1.35 (m, 16H), 1.30-0.95 (m, 18H), 0.88-0.74 (m, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 172.0, 99.1, 76.6, 61.9, 60.9, 57.6, 39.2, 34.3, 32.3, 30.7, 25.7, 25.0, 24.6, 24.6,

reactant | 2-(6-bromo-2,2-dimethyl-hexyloxy)-tetrahydropyran | 60 mmol, 17.6 g | BrCCCCC(COC1OCCCC1)(C)C | C13H25BrO2
reactant | diethyl malonate | 30 mmol, 4.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 72 mmol, 2.88 g | [H-].[Na+]
reactant | Water | 140 mL | O | H2O
solvent | DMSO | 145 mL | CS(=O)C | C2H6OS
catalyst | Tetra-n-butylammonium iodide | 3.6 mmol, 2.1 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,2-bis-[5,5-dimethyl-6-(tetrahydropyran-2-yloxy)-hexyl]-malonic acid diethyl ester | 17.3 g, 82.3% | C(C)OC(C(C(=O)OCC)(CCCCC(COC1OCCCC1)(C)C)CCCCC(COC1OCCCC1)(C)C)=O | C33H60O8
